US06034239
To a solution of N-[2-(7-amino-6-methoxyindan-1-yl)ethyl]acetamide (1.1 g, 4.4 mmol.) in dichloromethane (20 mL) was added dropwise gradually boron tribromide (2.1 mL, 22.1 mmol.). The mixture was stirred for 30 minutes at the same temperature. The reaction mixture was poured into ice-water, which was subjected to extraction with 10% methanol/chloroform. The extract solution was dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by means of silica gel column chromatography (chloroform:methanol=10:1) to afford N-[2-(7-amino-6-hydroxyindan-1-yl)ethyl]acetamide (yield 630 mg, 61%). A portion of the product was dissolved in ethanol, to which was added a saturated hydrochloric acid/ethanol solution. The solvent was distilled off under reduced pressure. The resulting crystalline precipitate was recrystallized from ethanol to afford the title compound.

reactant | N-[2-(7-amino-6-methoxyindan-1-yl)ethyl]acetamide | 4.4 mmol, 1.1 g | NC=1C(=CC=C2CCC(C12)CCNC(C)=O)OC | C14H20N2O2
reactant | boron tribromide | 22.1 mmol, 2.1 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-[2-(7-amino-6-hydroxyindan-1-yl)ethyl]acetamide | yield 630 mg, 61% | NC=1C(=CC=C2CCC(C12)CCNC(C)=O)O | C13H18N2O2
